simulator lang=spectre
global 0

ahdl_include "./dut/two_bit_counter_marker.va"

Vclk (clkin 0) vsource type=pulse val0=0 val1=1 delay=5n period=10n width=4n rise=100p fall=100p

XDUT (clkin mc) two_bit_counter_marker


tran tran stop=55n maxstep=25p
save clkin mc
